US06420426B1
To a stirring solution of 4-fluoro-2-hydroxy-benzoic acid (5.58 g, 35.7 mmol) in dimethyl formamide (72 mL, 0.5 M) was added N-bromosuccinimide (7.08 g, 39.3 mmol). The mixture was allowed to stir for 24 h at room temperature. Next, the mixture was diluted with 300 mL of ethyl acetate and washed successively with water (3 x 330 mL) and saturated aq LiCl (4×200 mL). The organic layer was dried over Na2SO4, filtered and concentrated to afford 5-bromo-4-fluoro-2-hydroxy-benzoic acid (8.1 g, 96%) as a beige powder. Please note, the product may contain up to 20% of a dibrominated impurity which may be separated from the desired product after coupling with a benzylamine or upon methylation (Example 50): Rf 0.32 (20% methanol in dichloromethane); 1H NMR (DMSO-d6, 300 mHz) δ 8.00 (d, J=8.1 Hz, 1H), 7.05 (d, J=10.5 Hz, 1H).

reactant | 4-fluoro-2-hydroxy-benzoic acid | 35.7 mmol, 5.58 g | FC1=CC(=C(C(=O)O)C=C1)O | C7H5FO3
reactant | N-bromosuccinimide | 39.3 mmol, 7.08 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethyl formamide | 0.5 M, 72 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 5-bromo-4-fluoro-2-hydroxy-benzoic acid | 8.1 g, 96% | BrC=1C(=CC(=C(C(=O)O)C1)O)F | C7H4BrFO3
